US07538112B2
Step 5: Ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-formyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate
A mixture of ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-vinyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate (0.11 g, 0.29 mmol), osmium tetroxide (2.5% in t-butanol, 0.59 mL, 0.058 mmol), sodium periodate (0.19 g, 0.87 mmol) in aqueous THF (6 mL, 1:2 v/v) was stirred at room temperature for 4 hours. The reaction mixture was treated with 10% aqueous sodium sulfite and diluted with ethyl acetate. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluted with a hexanes and ethyl acetate gradient to provide the titled product.

reactant | ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-vinyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | 0.29 mmol, 0.11 g | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2C)C)=O)C=C)C(=O)OCC | C21H24N2O4
reactant | sodium periodate | 0.87 mmol, 0.19 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | osmium tetroxide | 0.058 mmol, 0.59 mL | [Os](=O)(=O)(=O)=O
product | Ethyl 8-(benzyloxy)-2,4-dimethyl-1-oxo-6-formyl-1,2,3,4-tetrahydro-pyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C1=CC=CC=C1)OC=1C(=C(N2C1C(N(CC2C)C)=O)C=O)C(=O)OCC | C20H22N2O5
